US07858621B2
N-(3-Fluoro-4-methanesulfonylamino-benzyl)-3-[2-(2-methoxy-ethylamino)-6-trifluoromethyl-pyridin-3-yl]-acrylamide
To a suspension of 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide (35 mg, 0.077 mmol) and methoxyethylamine (5 eq) in DMF (0.5 ml) was added K2CO3 (5 eq). The mixture was stirred for 12 hours at 110° C. The reaction mixture was diluted with EtOAc and then washed two times with 1N-HCl and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue was column-chromatographed to yield the title compound (10 mg, 26%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 0.077 mmol, 35 mg | ClC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F | C17H14ClF4N3O3S
reactant | methoxyethylamine | 5 eq | COCCN | C3H9NO
reactant | K2CO3 | 5 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Fluoro-4-methanesulfonylamino-benzyl)-3-[2-(2-methoxy-ethylamino)-6-trifluoromethyl-pyridin-3-yl]-acrylamide | 10 mg, 26% | FC=1C=C(CNC(C=CC=2C(=NC(=CC2)C(F)(F)F)NCCOC)=O)C=CC1NS(=O)(=O)C | C20H22F4N4O4S
